US05604229
Diethyl 2-acetamido-2-pentenylmalonate (4.0 g) was dissolved in 210 ml of acetone and 3.3 g of N-methylmorpholine-N-oxide and 36 ml of a 1% aqueous osmium tetraoxide solution were added thereto. The mixture was stirred at room temperature for 2 hours. A solution of 700 mg of sodium sulfite in 20 ml of water was added thereto and the mixture was stirred for 15 minutes. The reaction mixture was concentrated and subjected to silica gel column chromatography using chloroform/methanol (10:1) as an eluent and a fraction having an Rf value: 0.3 (chloroform:methanol=10:1) was concentrated. The residue was dissolved in 630 ml of 1,4-dioxane and 70 ml of a 0.2M aqueous meta-sodium periodate solution was added thereto. The mixture was stirred at room temperature for 2 hours. The reaction mixture was filtrated, concentrated, extracted with ethyl acetate and washed with water. The hexane layer was dried and concentrated to give 4.17 g of colorless, oily diethyl 2-acetamido-2-(4-formylbutyl)malonate.

reactant | Diethyl 2-acetamido-2-pentenylmalonate | 4.0 g | C(C)(=O)NC(C(=O)OCC)(C(=O)OCC)C=CCCC | C14H23NO5
reactant | N-methylmorpholine-N-oxide | 3.3 g | C[N+]1(CCOCC1)[O-] | C5H11NO2
reactant | sodium sulfite | 700 mg | S(=O)([O-])[O-].[Na+].[Na+]
solvent | acetone | 210 ml | CC(=O)C | C3H6O
solvent | water | 20 ml | O | H2O
catalyst | osmium tetraoxide | [Os](=O)(=O)(=O)=O
product | diethyl 2-acetamido-2-(4-formylbutyl)malonate | C(C)(=O)NC(C(=O)OCC)(C(=O)OCC)CCCCC=O | C14H23NO6
